US05264573
Preparation of the 2-chlorohypoxanthine-hydrochloride monohydrate
According to the invention, the objectives outlined above are achieved by first preparing the monohydrate of 2-chlorohypoxanthine-hydrochloride starting from commercial 2-thioxanthine by chlorination in the presence of concentrated hydrochloric acid. To do this, the 2-thioxanthine is first suspended in concentrated hydrochloric acid and chlorine is introduced into the reaction mixture over a period of 3 to 7 hours--preferably about 5 hours--at a temperature of 0° C. to 10° C.--preferably 2° C. to 7° C. and especially 3° C. to 5° C. Then some of the hydrochloric acid is distilled off and the reaction mixture is cooled to a temperature in the range from -5° C. to +10° C.--preferably 0° C. to 5° C.--to cause precipitation of the required 2-chlorohypoxanthine in the form of the monohydrate of its hydrochloric salt. The reaction mixture is then suction filtered and the crystalline residue is washed first with saline solution and then with an organic solvent, preferably an alcohol, especially isopropanol, and dried.

reactant | 2-chlorohypoxanthine-hydrochloride | Cl.ClC=1NC(C=2NC=NC2N1)=O
reactant | 2-thioxanthine | N1C(=S)NC=2N=CNC2C1=O | C5H4N4OS
reactant | chlorine | ClCl | Cl2
solvent | hydrochloric acid | Cl | ClH
product | 2-chlorohypoxanthine-hydrochloride monohydrate | O.Cl.ClC=1NC(C=2NC=NC2N1)=O | InChI=1S/C5H3ClN4O.ClH.H2O/c6-5-9-3-2(4(11)10-5)7-1-8-3;;/h1H,(H2,7,8,9,10,11);1H;1H2
